US04059588
2-Imino-3-(2'-chloro-2'-phenylethyl)thiazolidine hydrochloride
The 2-imino-3-(2'-acetoxy-2'-phenylethyl)thiazolidine hydrochloride (0.01 mole) was heated under reflux with phosphorus pentachloride for one hour in chloroform (5 ml). The solvent was evaporated to leave a colourless solid which was crystallised from ethanol, yield 1.9 g. This compound was used in the synthesis of the compound of Example 75 as described for the corresponding 2-imino derivative in Example 75 Method A.

reactant | 2-imino-3-(2'-acetoxy-2'-phenylethyl)thiazolidine hydrochloride | 0.01 mole | Cl.N=C1SCCN1CC(C1=CC=CC=C1)OC(C)=O
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Imino-3-(2'-chloro-2'-phenylethyl)thiazolidine hydrochloride | Cl.N=C1SCCN1CC(C1=CC=CC=C1)Cl | InChI=1S/C11H13ClN2S.ClH/c12-10(9-4-2-1-3-5-9)8-14-6-7-15-11(14)13;/h1-5,10,13H,6-8H2;1H
